US05395835
Step C: Preparation of 4-bromo-N-{2-[4-(2,3-dichloro-phenyl)-1-piperazinyl]ethyl}-1-methoxy-2-naphthalene-carboxamide
Triethylamine (1.24 mL, 8.87 mmol) and isobutyl chloroformate (0.50 mL, 3.9 mmol) are added to 1-methoxy-4-bromo-2-naphthoic acid (European Published Patent Application EP 0 539 281A1) (1.0 g, 3.55 mmol) in dry tetrahydrofuran (20 mL) at 0° C. and allowed to stir for 1 hour. To this mixed anhydride is added 4-(2,3-dichlorophenyl)-l-piperazineethanamine (0.97 g, 3.55 mmol) in dry tetrahydrofuran (5 mL) and stirring continued for 18 hours, gradually allowing the mixture to warm to room temperature. The reaction mixture is washed with saturated sodium chloride (NaCl), dried (sodium sulfate), and concentrated to give 0.27 g of the title compound as a white solid; mp 137° C.

reactant | Triethylamine | 8.87 mmol, 1.24 mL | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 3.9 mmol, 0.50 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 1-methoxy-4-bromo-2-naphthoic acid | 3.55 mmol, 1.0 g | COC1=C(C=C(C2=CC=CC=C12)Br)C(=O)O | C12H9BrO3
reactant | 4-(2,3-dichlorophenyl)-l-piperazineethanamine | 3.55 mmol, 0.97 g | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCN | C12H17Cl2N3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-bromo-N-{2-[4-(2,3-dichloro-phenyl)-1-piperazinyl]ethyl}-1-methoxy-2-naphthalene-carboxamide | 0.27 g | BrC1=CC(=C(C2=CC=CC=C12)OC)C(=O)NCCN1CCN(CC1)C1=C(C(=CC=C1)Cl)Cl | C24H24BrCl2N3O2
